US04587331
A 2.0 g portion of D-galactose was dissolved in a mixture of 5 ml of methanol and 5 ml of hydrazine hydrate and stirred overnight, then evaporated to dryness in vacuo. About 5 ml of methanol was added, the mixture was stirred for 48 hours and the solid was collected giving 1.9 g of D-galactose hydrazone.

reactant | D-galactose | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | hydrazine hydrate | 5 ml | O.NN
solvent | methanol | 5 ml | CO | CH4O
product | D-galactose hydrazone | 1.9 g | C([C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO)=NN | C6H14N2O5
